US08871738B2
To benzyl [(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]-3-{(2R,3R)-3-[3-methyl-5-(trifluoromethyl)phenyl]oxiran-2-yl}propyl]carbamate (100 mg, 0.162 mmol) in DMF (2 mL) was added LiHMDS (1.0 M, 0.324 mL, 0.324 mmol) at 0° C. The mixture was stirred at room temperature overnight and the solvent was removed under reduced pressure. The resultant residue was purified by preparative TLC to yield (1R,5S,7aS)-5-[2-bromo-5-(trifluoromethyl)phenyl]-1-[3-methyl-5-(trifluoromethyl)phenyl]tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-3-one (75 mg, 0.148 mmol). 1H NMR (500 MHz, CDCl3) δ7.72 (m, 2H), 7.46 (s, 1H), 7.44 (d, J=8.8 Hz, 3H), 6.06 (d, J=8.1 Hz, 1H), 5.33 (t, J=8.0 Hz, 1H), 4.57 (m, 1H), 2.99 (m, 1H), 2.48 (s, 3H), 1.68 (m, 1H), 1.57 (m, 1H), 1.38 (m, 1H).

reactant | benzyl [(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]-3-{(2R,3R)-3-[3-methyl-5-(trifluoromethyl)phenyl]oxiran-2-yl}propyl]carbamate | 0.162 mmol, 100 mg | BrC1=C(C=C(C=C1)C(F)(F)F)[C@H](CC[C@H]1O[C@@H]1C1=CC(=CC(=C1)C(F)(F)F)C)NC(OCC1=CC=CC=C1)=O | C28H24BrF6NO3
reactant | LiHMDS | 0.324 mmol, 1.0 M, 0.324 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1R,5S,7aS)-5-[2-bromo-5-(trifluoromethyl)phenyl]-1-[3-methyl-5-(trifluoromethyl)phenyl]tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-3-one | 0.148 mmol, 75 mg | BrC1=C(C=C(C=C1)C(F)(F)F)[C@@H]1CC[C@@H]2N1C(O[C@@H]2C2=CC(=CC(=C2)C(F)(F)F)C)=O | C21H16BrF6NO2
